* UCC14240-Q1 Isolated DC/DC Power Module SPICE Model
* Texas Instruments
* Automotive Isolated Bias Supply for Gate Drivers
* Model version: 1.0
* Date: 2024
*
* This model represents the UCC14240-Q1 isolated DC/DC converter
* Suitable for ngspice and KiCad simulation
*
* Pin Configuration (36-pin SSOP DWN package):
* Pin 1-2, 5, 8-18: GNDP - Primary side ground (analog ground: 1,2,5)
* Pin 3: PG - Power Good output (active-low open-drain)
* Pin 4: ENA - Enable input (active high)
* Pin 6: VIN_ANALOG - Analog input voltage sense
* Pin 7: VIN_POWER - Power input voltage (21V to 27V)
* Pin 19-27, 30-31, 36: VEE - Secondary side negative output (ground reference)
* Pin 28-29: VDD - Secondary side positive output
* Pin 32: RLIM - Current limit resistor connection
* Pin 33: FBVEE - Feedback for COM-VEE voltage
* Pin 34: FBVDD - Feedback for VDD-VEE voltage
* Pin 35: VEEA - Analog ground for feedback network
*
* Note: COM pin is not brought out - it's the midpoint between VDD and VEE
* Dual outputs:
*   - VDD-VEE: 18V to 25V (adjustable via FBVDD resistor divider)
*   - COM-VEE: 2.5V to (VDD-VEE) (adjustable via FBVEE resistor divider)
*
* Key Features:
* - Integrated isolated DC/DC converter with transformer
* - Input: 21V to 27V nominal (32V absolute max)
* - Output power: 2.0W @ 85°C, >1.5W @ 105°C
* - Isolation: 3000V RMS (UL 1577), 4243V peak
* - Switching frequency: 11-15 MHz (13 MHz typical)
* - Hysteretic burst-mode regulation (±10mV hysteresis)
* - Dual adjustable outputs for bipolar gate driver supply
* - Soft-start with 16ms timeout
* - Protection: UVLO, OVLO, UVP, OVP, thermal shutdown
* - AEC-Q100 Grade 1 qualified (-40°C to 150°C)
*
* Application:
* - Gate driver bias supply for IGBT/SiC FET
* - Induction cooker power stages
* - Isolated power for high-side drivers

***************************************************************************
* Main Subcircuit: UCC14240-Q1
***************************************************************************
.subckt UCC14240-Q1
+ GNDP_1 GNDP_2 PG ENA GNDP_5 VIN_ANALOG VIN_POWER
+ GNDP_8 GNDP_9 GNDP_10 GNDP_11 GNDP_12 GNDP_13 GNDP_14 GNDP_15 GNDP_16 GNDP_17 GNDP_18
+ VEE_19 VEE_20 VEE_21 VEE_22 VEE_23 VEE_24 VEE_25 VEE_26 VEE_27
+ VDD_28 VDD_29
+ VEE_30 VEE_31 RLIM FBVEE FBVDD VEEA VEE_36

* Internal node connections for multiple ground/power pins
* Primary side ground bus
R_GNDP_1_2 GNDP_1 GNDP_2 0.001
R_GNDP_2_5 GNDP_2 GNDP_5 0.001
R_GNDP_5_8 GNDP_5 GNDP_8 0.001
R_GNDP_8_9 GNDP_8 GNDP_9 0.001
R_GNDP_9_10 GNDP_9 GNDP_10 0.001
R_GNDP_10_11 GNDP_10 GNDP_11 0.001
R_GNDP_11_12 GNDP_11 GNDP_12 0.001
R_GNDP_12_13 GNDP_12 GNDP_13 0.001
R_GNDP_13_14 GNDP_13 GNDP_14 0.001
R_GNDP_14_15 GNDP_14 GNDP_15 0.001
R_GNDP_15_16 GNDP_15 GNDP_16 0.001
R_GNDP_16_17 GNDP_16 GNDP_17 0.001
R_GNDP_17_18 GNDP_17 GNDP_18 0.001

* Use GNDP_1 as primary reference
.param GNDP={GNDP_1}

* Secondary side VEE bus (negative output reference)
R_VEE_19_20 VEE_19 VEE_20 0.001
R_VEE_20_21 VEE_20 VEE_21 0.001
R_VEE_21_22 VEE_21 VEE_22 0.001
R_VEE_22_23 VEE_22 VEE_23 0.001
R_VEE_23_24 VEE_23 VEE_24 0.001
R_VEE_24_25 VEE_24 VEE_25 0.001
R_VEE_25_26 VEE_25 VEE_26 0.001
R_VEE_26_27 VEE_26 VEE_27 0.001
R_VEE_27_30 VEE_27 VEE_30 0.001
R_VEE_30_31 VEE_30 VEE_31 0.001
R_VEE_31_36 VEE_31 VEE_36 0.001

* Use VEE_19 as secondary reference
.param VEE={VEE_19}

* VDD bus (positive output)
R_VDD_28_29 VDD_28 VDD_29 0.001

* Use VDD_28 as VDD reference
.param VDD={VDD_28}

* Connect VEEA to VEE (analog ground for feedback)
R_VEEA_VEE VEEA VEE_19 0.001

***************************************************************************
* Input Protection and Enable Logic
***************************************************************************
* Input voltage monitoring
B_VIN_SENSE N_VIN_SENSE GNDP_1 V={V(VIN_ANALOG,GNDP_1)}
R_VIN_SENSE N_VIN_SENSE GNDP_1 1MEG

* Enable input (active high, threshold ~1.0V)
B_ENA_DET N_ENA_DET GNDP_1 V={IF(V(ENA,GNDP_1) > 1.0, 1, 0)}
R_ENA_DET N_ENA_DET GNDP_1 100k

* UVLO: Rising threshold 20V, falling 18V (2V hysteresis)
B_UVLO N_UVLO GNDP_1 V={
+ IF(V(N_VIN_SENSE,GNDP_1) < 18, 0,
+   IF(V(N_VIN_SENSE,GNDP_1) > 20, 1,
+     V(N_UVLO,GNDP_1)
+   )
+ )
+}
R_UVLO N_UVLO GNDP_1 1MEG
C_UVLO N_UVLO GNDP_1 10n

* OVLO: Rising threshold 31V, falling 29V (2V hysteresis)
B_OVLO N_OVLO GNDP_1 V={
+ IF(V(N_VIN_SENSE,GNDP_1) > 31, 0,
+   IF(V(N_VIN_SENSE,GNDP_1) < 29, 1,
+     V(N_OVLO,GNDP_1)
+   )
+ )
+}
R_OVLO N_OVLO GNDP_1 1MEG
C_OVLO N_OVLO GNDP_1 10n

* Input voltage OK signal
B_VIN_OK N_VIN_OK GNDP_1 V={IF(V(N_UVLO,GNDP_1)>0.5 & V(N_OVLO,GNDP_1)>0.5 & V(N_ENA_DET,GNDP_1)>0.5, 1, 0)}
R_VIN_OK N_VIN_OK GNDP_1 100k

***************************************************************************
* Soft-Start Sequencing
***************************************************************************
* Soft-start: 7-step voltage ramp from 1.3V to 2.5V in 200mV steps
* Each step ~2.3ms, total ~16ms
* When VIN_OK goes high, ramp feedback reference

* Soft-start capacitor charging
B_SS_CHARGE N_SS GNDP_1 I={IF(V(N_VIN_OK,GNDP_1)>0.5, 1u, 0)}
C_SS N_SS GNDP_1 10u
R_SS_DISCHARGE N_SS GNDP_1 {IF(V(N_VIN_OK,GNDP_1)<0.5, 1, 1G)}

* Soft-start reference (ramps from 0 to 2.5V in ~16ms)
B_VREF_SS N_VREF_SS GNDP_1 V={MIN(2.5, V(N_SS,GNDP_1)*0.156)}
R_VREF_SS N_VREF_SS GNDP_1 1MEG

* Final reference voltage (2.5V nominal with ±0.0325V tolerance)
* Using 2.5V nominal
B_VREF N_VREF GNDP_1 V={IF(V(N_SS,GNDP_1) > 16, 2.5, V(N_VREF_SS,GNDP_1))}
R_VREF N_VREF GNDP_1 1MEG

***************************************************************************
* VDD-VEE Output Regulation (Primary Output)
***************************************************************************
* Feedback voltage from FBVDD resistor divider
* Target: VFBVDD = 2.5V when VDD-VEE is at setpoint
* User sets VDD-VEE = 2.5V × (R_TOP + R_BOT) / R_BOT

* Hysteretic comparator for VDD-VEE regulation
* Hysteresis: ±10mV at feedback pin
B_VDD_HYST N_VDD_HYST GNDP_1 V={
+ IF(V(FBVDD,VEEA) < V(N_VREF,GNDP_1) - 0.010, 1,
+   IF(V(FBVDD,VEEA) > V(N_VREF,GNDP_1) + 0.010, 0,
+     V(N_VDD_HYST,GNDP_1)
+   )
+ )
+}
R_VDD_HYST N_VDD_HYST GNDP_1 1MEG
C_VDD_HYST N_VDD_HYST GNDP_1 1n

* Output voltage protection (±10% of target)
* Under-voltage: FBVDD < 2.25V (90% of 2.5V)
* Over-voltage: FBVDD > 2.75V (110% of 2.5V)
B_VDD_UVP N_VDD_UVP GNDP_1 V={IF(V(FBVDD,VEEA) < 2.25 & V(N_SS,GNDP_1)>16, 0, 1)}
B_VDD_OVP N_VDD_OVP GNDP_1 V={IF(V(FBVDD,VEEA) > 2.75, 0, 1)}
R_VDD_UVP N_VDD_UVP GNDP_1 100k
R_VDD_OVP N_VDD_OVP GNDP_1 100k

***************************************************************************
* COM-VEE Output Regulation (Secondary Output)
***************************************************************************
* Feedback voltage from FBVEE resistor divider
* Target: VFBVEE = 2.5V when COM-VEE is at setpoint
* User sets VCOM-VEE = 2.5V × (R_TOP + R_BOT) / R_BOT

* Hysteretic comparator for COM-VEE regulation
* Hysteresis: ±10mV at feedback pin
B_COM_HYST N_COM_HYST GNDP_1 V={
+ IF(V(FBVEE,VEEA) < V(N_VREF,GNDP_1) - 0.010, 1,
+   IF(V(FBVEE,VEEA) > V(N_VREF,GNDP_1) + 0.010, 0,
+     V(N_COM_HYST,GNDP_1)
+   )
+ )
+}
R_COM_HYST N_COM_HYST GNDP_1 1MEG
C_COM_HYST N_COM_HYST GNDP_1 1n

* Output voltage protection (±10% of target)
B_COM_UVP N_COM_UVP GNDP_1 V={IF(V(FBVEE,VEEA) < 2.25 & V(N_SS,GNDP_1)>16, 0, 1)}
B_COM_OVP N_COM_OVP GNDP_1 V={IF(V(FBVEE,VEEA) > 2.75, 0, 1)}
R_COM_UVP N_COM_UVP GNDP_1 100k
R_COM_OVP N_COM_OVP GNDP_1 100k

***************************************************************************
* Thermal Shutdown
***************************************************************************
* Thermal shutdown: 150°C junction temperature (both primary and secondary)
* Modeled as function of die temperature
* Simplified: Use ambient temperature as proxy

* Primary side thermal shutdown
B_TSD_PRI N_TSD_PRI GNDP_1 V={IF(TEMP > 150, 0, 1)}
R_TSD_PRI N_TSD_PRI GNDP_1 100k

* Secondary side thermal shutdown
B_TSD_SEC N_TSD_SEC VEE_19 V={IF(TEMP > 150, 0, 1)}
R_TSD_SEC N_TSD_SEC VEE_19 100k

***************************************************************************
* Overall Enable Signal
***************************************************************************
* Converter enabled when all conditions met:
* - VIN_OK (ENA high, UVLO, OVLO)
* - No UVP/OVP faults
* - No thermal shutdown
* - Soft-start completed

B_ENABLE N_ENABLE GNDP_1 V={
+ IF(V(N_VIN_OK,GNDP_1)>0.5 &
+    V(N_VDD_UVP,GNDP_1)>0.5 & V(N_VDD_OVP,GNDP_1)>0.5 &
+    V(N_COM_UVP,GNDP_1)>0.5 & V(N_COM_OVP,GNDP_1)>0.5 &
+    V(N_TSD_PRI,GNDP_1)>0.5 & V(N_TSD_SEC,VEE_19)>0.5 &
+    V(N_SS,GNDP_1)>16,
+    1, 0)
+}
R_ENABLE N_ENABLE GNDP_1 100k

***************************************************************************
* Power Good Output
***************************************************************************
* PG is open-drain, active LOW when outputs are good
* PG goes high (release) when:
* - Outputs in regulation for >100us
* - No fault conditions

* PG delay timer
B_PG_TIMER_CHARGE N_PG_TIMER GNDP_1 I={IF(V(N_ENABLE,GNDP_1)>0.5, 10u, -100u)}
C_PG_TIMER N_PG_TIMER GNDP_1 1u
R_PG_TIMER_CLAMP N_PG_TIMER GNDP_1 {IF(V(N_PG_TIMER,GNDP_1)<0, 1, IF(V(N_PG_TIMER,GNDP_1)>1, 1, 1G))}

* PG output (open-drain, active LOW)
* When PG_TIMER > 1V (outputs good), PG is released (high-Z)
* When fault, PG pulls low
B_PG_CTRL N_PG_CTRL GNDP_1 V={IF(V(N_PG_TIMER,GNDP_1) > 1, 0, 1)}
R_PG_CTRL N_PG_CTRL GNDP_1 1MEG

* Open-drain output
S_PG PG N_PG_LOW N_PG_CTRL GNDP_1 SW_PG
R_PG_LOW N_PG_LOW GNDP_1 10
C_PG PG GNDP_1 10p

***************************************************************************
* DC/DC Converter Power Stage
***************************************************************************
* Behavioral model of isolated transformer and rectifier
* Simplified: Model average behavior with burst-mode switching

* Input power calculation
* No-load quiescent: ~35mA @ 24V = 0.84W
* At 2W output with 55% efficiency: Pin = 2W/0.55 = 3.64W
* Input current: 3.64W/24V = 152mA + 35mA = 187mA

* Output power demand
B_POUT_VDD N_POUT_VDD VEE_19 V={V(VDD_28,VEE_19) * I(V_SENSE_VDD)}
R_POUT_VDD N_POUT_VDD VEE_19 1MEG

* Current sensor for VDD output
V_SENSE_VDD VDD_28 N_VDD_INT 0

* VDD output source (controlled by regulation)
* Efficiency model: 50-60% typical, use 55%
* Voltage source with series resistance to model output impedance
B_VDD_SOURCE N_VDD_INT N_VDD_PRE V={
+ IF(V(N_ENABLE,GNDP_1)<0.5, 0,
+   IF(V(N_VDD_HYST,GNDP_1)>0.5,
+     V(FBVDD,VEEA) * (V(FBVDD,VEEA) + 100) / V(FBVDD,VEEA),
+     V(FBVDD,VEEA) * (V(FBVDD,VEEA) + 100) / V(FBVDD,VEEA) * 0.95
+   )
+ )
+}
R_VDD_SOURCE N_VDD_PRE VDD_29 0.1

* COM rail generation
* COM is created by RLIM current regulator
* RLIM = (VCOM-VEE) / IMAX - 30Ω (internal resistance)

* Internal COM node (not brought out as pin)
* COM is between VDD and VEE

* RLIM current source/sink
* When FBVEE < VREF: source current (charge COM node)
* When FBVEE > VREF: sink current (discharge COM node)
B_RLIM_CURRENT N_RLIM VEE_19 I={
+ IF(V(N_ENABLE,GNDP_1)<0.5, 0,
+   IF(V(N_COM_HYST,GNDP_1)>0.5,
+     (V(FBVEE,VEEA) - 2.5) / (V(RLIM,VEE_19) + 30),
+     (V(FBVEE,VEEA) - 2.5) / (V(RLIM,VEE_19) + 30) * 0.9
+   )
+ )
+}
R_RLIM N_RLIM RLIM 30

* Note: COM node is internal - users connect FBVEE divider between external
* capacitors to create the midpoint voltage

***************************************************************************
* Input Current Consumption
***************************************************************************
* Quiescent current: ~35mA @ 24V
* Operating current depends on output power and efficiency
* Efficiency: ~55% typical

* Input current
B_IIN VIN_POWER N_IIN_INT I={
+ IF(V(N_ENABLE,GNDP_1)<0.5,
+   35m,
+   35m + ABS(V(N_POUT_VDD,VEE_19)) / (V(VIN_ANALOG,GNDP_1) * 0.55)
+ )
+}
R_IIN N_IIN_INT GNDP_1 1

* Analog input sense (minimal current)
R_VIN_ANALOG VIN_ANALOG GNDP_1 1MEG

***************************************************************************
* Output Capacitance
***************************************************************************
* Internal output capacitance (user adds external caps)
C_VDD_INTERNAL VDD_28 VEE_19 47p
C_VEE_INTERNAL VEE_19 GNDP_1 10p

.ends UCC14240-Q1

***************************************************************************
* Device Models
***************************************************************************
* Power-good open-drain output switch
.model SW_PG VSWITCH (RON=10 ROFF=10MEG VON=0.7 VOFF=0.3)

***************************************************************************
* Additional Notes for Simulation
***************************************************************************
* 1. This is a simplified behavioral model for system-level simulation
* 2. Key characteristics modeled:
*    - Dual adjustable output regulation (VDD-VEE and COM-VEE)
*    - Hysteretic burst-mode control
*    - Soft-start sequence (~16ms)
*    - Input protection (UVLO, OVLO)
*    - Output protection (UVP, OVP)
*    - Thermal shutdown
*    - Power-good output with delay
*    - Input current consumption
* 3. Not modeled in detail:
*    - High-frequency switching ripple (13 MHz)
*    - EMI/spread spectrum modulation
*    - Detailed magnetic isolation characteristics
*    - Propagation delays across isolation barrier
*    - CMTI (common-mode transient immunity)
* 4. External components required:
*    - Input bypass capacitor: 10µF + 0.1µF ceramic
*    - Output capacitors:
*      * COUT1 (VDD-VEE): 10µF to 100µF (depends on load)
*      * COUT2 (VDD-COM): 1µF to 10µF
*      * COUT3 (COM-VEE): 1µF to 10µF
*      * Ratio COUT2:COUT3 sets initial COM voltage during startup
*    - Feedback resistor dividers for FBVDD and FBVEE
*    - RLIM resistor for COM current limiting
*    - Pull-up resistor on PG output (open-drain)
* 5. Feedback resistor divider design:
*    - For VDD-VEE voltage:
*      VVDD-VEE = 2.5V × (RFBVDD_TOP + RFBVDD_BOT) / RFBVDD_BOT
*      Recommended: RFBVDD_BOT = 10kΩ to 100kΩ
*    - For COM-VEE voltage:
*      VCOM-VEE = 2.5V × (RFBVEE_TOP + RFBVEE_BOT) / RFBVEE_BOT
*      Recommended: RFBVEE_BOT = 10kΩ to 100kΩ
* 6. RLIM resistor calculation:
*    - For bipolar output (positive and negative rails):
*      RLIM = VCOM-VEE / IMAX - 30Ω
*    - Where IMAX is maximum source/sink current needed
*    - Typical: 100Ω to 1kΩ depending on application
* 7. Typical application voltages:
*    - VDD-VEE = 20V (for ±10V gate drive with COM at midpoint)
*    - COM-VEE = 10V (creates +10V on VDD-COM, -10V on COM-VEE)
* 8. Power budget:
*    - Maximum output power: 2.0W @ 85°C ambient
*    - Derate for higher ambient temperature
*    - Include gate charge current + quiescent current of gate driver
* 9. Enable and power-good sequencing:
*    - Assert ENA after VIN is stable
*    - Wait for PG to go high before enabling gate driver
*    - PG has ~100µs delay after outputs reach regulation
***************************************************************************
